US06608203B2
2-[Benzyl-(3-methoxy-benzyl)-amino]-1-(4-methoxy-phenyl)-ethanol
To a solution of 2-[benzyl-(3-methoxy-benzyl)-amino]-1-(4-methoxy-phenyl)-ethanone (13.8 g, 36.75 mmol, see Preparation 62) in MeOH (150 ml) cooled to 0° C. was added NaBH4 in five equal portions over 30 minutes. The reaction was stirred overnight while slowly warming to RT. Water (100 ml) was added to the reaction mixture, the volume was reduced by half in vacuo, and the mixture extracted with CH2Cl2 (3×100 ml). The combined organics were dried over MgSO4, filtered, and concentrated in vacuo. Flash chromatography of the residue (SiO2, gradient elution 20%-50% EtOAc/hexanes) gave the title product (12.87 g, 34.1 mmol, 93% yield).

reactant | 2-[benzyl-(3-methoxy-benzyl)-amino]-1-(4-methoxy-phenyl)-ethanone | 36.75 mmol, 13.8 g | C(C1=CC=CC=C1)N(CC(=O)C1=CC=C(C=C1)OC)CC1=CC(=CC=C1)OC | C24H25NO3
reactant | NaBH4 | [BH4-].[Na+]
reactant | Water | 100 ml | O | H2O
solvent | MeOH | 150 ml | CO | CH4O
product | 2-[Benzyl-(3-methoxy-benzyl)-amino]-1-(4-methoxy-phenyl)-ethanol | 34.1 mmol, 12.87 g, 93% yield | C(C1=CC=CC=C1)N(CC(O)C1=CC=C(C=C1)OC)CC1=CC(=CC=C1)OC | C24H27NO3
